US07241783B2
4-(naphth-1-yl)-1-(2,4,6-trihydroxybenzylidene)-3-thiosemicarbazide
A solution of 4-(naphth-1-yl)thiosemicarbazide (572 mg, 2.63 mmol) and 2,4,6-trihydroxybenzaldehyde (405 mg, 2.63 mmol) in acetic acid (5 mL) was heated under reflux for 20 min, then cooled. The precipitate was filtered, washed (acetic acid) and dried to give the title compound (445 mg, 54%) as a solid. MS (ES+) m/e 354 [M+H]+.

reactant | 4-(naphth-1-yl)thiosemicarbazide | 2.63 mmol, 572 mg | C1(=CC=CC2=CC=CC=C12)NC(NN)=S | C11H11N3S
reactant | 2,4,6-trihydroxybenzaldehyde | 2.63 mmol, 405 mg | OC1=C(C=O)C(=CC(=C1)O)O | C7H6O4
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 4-(naphth-1-yl)-1-(2,4,6-trihydroxybenzylidene)-3-thiosemicarbazide | 445 mg, 54% | C1(=CC=CC2=CC=CC=C12)NC(NN=CC1=C(C=C(C=C1O)O)O)=S | C18H15N3O3S
